US07544698B2
Step A: [1-(1H-Indole-2-carbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid tert-butyl ester.
To a solution of indole-2-carboxylic acid (388 mg, 2.40 mmol) and methyl-pyrrolidin-3-yl-carbamic acid tert-butyl ester (401 mg, 2.00 mmol) in THF (16 mL) was added CDI (356 mg, 2.20 mmol). After 18 h at rt, the mixture was concentrated, diluted with CH2Cl2, washed with satd. aq. Na2CO3 and water, dried (Na2SO4), and concentrated. The residue was purified by FCC to give the title compound (565 mg, 69%). MS (ESI): mass calcd. for C19H25N3O3, 343.19; m/z found, 344 [M+H]+. 1H NMR (CDCl3): 9.73 (s, 1H), 7.67 (d, J=8.0, 1H), 7.46 (dd, J=8.3, 0.8, 1H), 7.29 (t, J=8.2, 1H), 6.89 (d, J=1.3, 1H), 4.89 (br s, 1H), 4.26-3.49 (m, 4H), 2.85 (s, 3H), 2.36-1.96 (m, 2H), 1.76 (s, 1H), 1.49 (s, 9H). Anal. Calcd for C19H25N3O3: C, 66.45; H, 7.34; N, 12.24. Found: C, 66.42; H, 7.55; N, 12.10.

reactant | indole-2-carboxylic acid | 2.40 mmol, 388 mg | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | methyl-pyrrolidin-3-yl-carbamic acid tert-butyl ester | 2.00 mmol, 401 mg | C(C)(C)(C)OC(N(C1CNCC1)C)=O | C10H20N2O2
reactant | CDI | 2.20 mmol, 356 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | THF | 16 mL | C1CCOC1 | C4H8O
product | [1-(1H-Indole-2-carbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid tert-butyl ester | 565 mg, 69% | C(C)(C)(C)OC(N(C)C1CN(CC1)C(=O)C=1NC2=CC=CC=C2C1)=O | C19H25N3O3
